US05880147
N-[2-t-Butyl-5-(2,2-dimethylpropanoyl)aminocarbonylphenyl]-3-(2,4-dimethoxyphenyl)octanamide (Compound No. 389)
Following a similar procedure to that described in Example 139, but using N-(2-t-butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide (prepared as described in Preparation 7) and 2,2-dimethylpropanamide, the title compound was obtained as crystals, melting at 170°-172° C. (from ethyl acetate).

reactant | N-(2-t-butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)O)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C27H37NO5
reactant | 2,2-dimethylpropanamide | CC(C(=O)N)(C)C | C5H11NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-t-Butyl-5-(2,2-dimethylpropanoyl)aminocarbonylphenyl]-3-(2,4-dimethoxyphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)NC(C(C)(C)C)=O)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C32H46N2O5
